US06235771B1
In 1,2-dimethoxyethane (15.3 ml) was dissolved methyl 7-(4-methyl-2-thienyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate. (510 mg), and to the solution was added 6N hydrochloric acid (10.2 ml). The mixture was stirred at 100° C. for 15 hours and cooled to room temperature. Under reduced pressure, the solvent was evaporated. To the residue,were added ethyl acetate and potassium carbonate solution, and the mixture was extracted with water. To the solution was added 6N hydrochloric acid, and the solution was made pH 4-5, extracted with ethyl acetate, washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated to give 7-(4-methyl-2-thienyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid (459 mg).

reactant | hydrochloric acid | 6N, 10.2 ml | Cl | ClH
reactant | methyl 7-(4-methyl-2-thienyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | CC=1C=C(SC1)C=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OC)C1 | C17H16O4S2
solvent | 1,2-dimethoxyethane | 15.3 ml | COCCOC | C4H10O2
product | 7-(4-methyl-2-thienyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid | 459 mg | CC=1C=C(SC1)C=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)O)C1 | C16H14O4S2
